US08492549B2
Acetic acid 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-ylmethyl ester
To a solution of [1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-yl]methanol (0.5 g, 1.80 mmol), pyridine (0.29 ml) and DCM (40 ml) at 0° C. was added acetic anhydride (0.34 ml). The reaction mixture was stirred at RT for 6 h. Water was slowly added and the reaction mixture extracted with DCM (3×20 ml). The combined organic phases were dried over Na2SO4, filtered and the filtrate was evaporated to give the title compound.

reactant | [1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-yl]methanol | 1.80 mmol, 0.5 g | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)CO | C16H23NO3
reactant | pyridine | 0.29 ml | N1=CC=CC=C1 | C5H5N
reactant | DCM | 40 ml | C(Cl)Cl | CH2Cl2
reactant | acetic anhydride | 0.34 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | Water | O | H2O
product | Acetic acid 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-ylmethyl ester | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)COC(C)=O | C18H25NO4
